US07939533B2
a) 2-(2-Bromo-5-fluoro-phenyl)-1,3 dioxolane
To a solution of 2.0 g (9.9 mmol) 2-bromo-5-fluorobenzaldehyde in 20 ml toluene were added 0.722 ml (13.0 mmol) ethane-1,2-diol and 5 mg (0.03 mmol) toluene-4-sulfonic acid monohydrate. The reaction mixture was heated in a rotary evaporator at 60° C. and 200 mbar during 4 h. After evaporation of the solvent and flash chromatography 2.32 g (95%) of the title compound were obtained as a colorless liquid.

reactant | 2-bromo-5-fluorobenzaldehyde | 9.9 mmol, 2.0 g | BrC1=C(C=O)C=C(C=C1)F | C7H4BrFO
reactant | ethane-1,2-diol | 13.0 mmol, 0.722 ml | C(CO)O | C2H6O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | toluene-4-sulfonic acid monohydrate | 0.03 mmol, 5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(2-Bromo-5-fluoro-phenyl)-1,3 dioxolane | 2.32 g, 95% | BrC1=C(C=C(C=C1)F)C1OCCO1 | C9H8BrFO2
